US04783562
100 g of 1-naphthyl methyl sulphide are dissolved in 250 ml of carbon tetrachloride. Chlorine is introduced into the solution at 75° to 80° C., until the solution is saturated. The solvent and the resulting sulphur chloride are then distilled off. 30 g of 1-trichloromethylnaphthalene of boiling point 124° to 128° C./0.3 mm are obtained, after fractional distillation, from the reaction product which remains as a residue.

reactant | 1-naphthyl methyl sulphide | 100 g | CSC1=CC=CC2=CC=CC=C12 | C11H10S
reactant | Chlorine | ClCl | Cl2
reactant | carbon tetrachloride | 250 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-trichloromethylnaphthalene | 30 g | ClC(C1=CC=CC2=CC=CC=C12)(Cl)Cl | C11H7Cl3
